US07829568B2
2-[(3-chloro-benzoyl)-methyl-amino]-5,6,7,8-tetrahydro-imidazo[1,2-a]pyridine-3-carboxylic acid (benzo[1,3]dioxol-5-ylmethyl)-amide
2-[(3-chloro-benzoyl)-methyl-amino]-5,6,7,8-tetrahydro-imidazo[1,2-a]pyridine-3-carboxylic acid (232 mg, 0.70 mmol), EDCI (146.6 mg, 0.76 mmol, 1.1 eq.) and HOAt (9.5 mg, 0.07 mmol, 0.1 eq.) were dissolved in DCM (10 mL). Piperonylamine (96 μL, 0.77 mmol, 1.1 eq.) was then added thereto. The reaction mixture was stirred over night and the solvent was then removed. EtOAc (70 mL) was added thereto and the reaction mixture was washed in succession with 0.5 M KHSO4 in water (70 mL) and saturated aqueous NaHCO3 solution (70 mL). The aqueous phases were extracted with EtOAc (30 mL). The combined organic phases were washed with saturated aqueous NaCl solution (70 mL), dried over sodium sulphate, and the solvent was removed under vacuum. The untreated product was purified by column chromatography (SiO2, DCM→DCM/2% MeOH). 116.8 mg (36%) of the desired product 2-[(3-chloro-benzoyl)-methyl-amino]-5,6,7,8-tetrahydro-imidazo[1,2-a]pyridine-3-carboxylic acid(benzo[1,3]dioxol-5-ylmethyl)-amide were obtained.

reactant | 2-[(3-chloro-benzoyl)-methyl-amino]-5,6,7,8-tetrahydro-imidazo[1,2-a]pyridine-3-carboxylic acid | 0.70 mmol, 232 mg | ClC=1C=C(C(=O)N(C=2N=C3N(CCCC3)C2C(=O)O)C)C=CC1 | C16H16ClN3O3
reactant | EDCI | 0.76 mmol, 146.6 mg, 1.1 eq. | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOAt | 0.07 mmol, 9.5 mg, 0.1 eq. | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | Piperonylamine | 0.77 mmol, 96 μL, 1.1 eq. | C(C1=CC=2OCOC2C=C1)N | C8H9NO2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-[(3-chloro-benzoyl)-methyl-amino]-5,6,7,8-tetrahydro-imidazo[1,2-a]pyridine-3-carboxylic acid (benzo[1,3]dioxol-5-ylmethyl)-amide | 116.8 mg, 36% | O1COC2=C1C=CC(=C2)CNC(=O)C2=C(N=C1N2CCCC1)N(C)C(C1=CC(=CC=C1)Cl)=O | C24H23ClN4O4
